* Extracted by KLayout with SKY130 LVS runset on : 20/07/2026 23:34

.SUBCKT INV_X1 4 2 1 3 6
M$1 1 4 3 5 sky130_fd_pr__pfet_01v8 L=0.15 W=1.7 AS=0.38675 AD=0.38675 PS=3.46
+ PD=3.46
M$3 2 4 3 6 sky130_fd_pr__nfet_01v8 L=0.15 W=0.65 AS=0.147875 AD=0.147875
+ PS=1.885 PD=1.885
.ENDS INV_X1
